US06585873B1
4a. Tetra acryloyl triethylene tetramine
Triethylene tetramine (2.93 g, 0.02 moles) in dichloromethane (100 ml) was added drop wise over 6 hrs to a solution of acryloyl chloride (7.24 g, 0.08 moles) in dichloromethane (40 ml), stirring vigorously at room temperature. The reaction was stirred at room temperature overnight and the suspension was filtered. The filtrate was extracted with NaOH(aq). The water was rotary evaporated and the residue was washed with acetone and filtered. The acetone washings were concentrated down and the yellow oil remaining was put through a silica gravity chromatography column with acetone as the elutant. A yellow solid was obtained and recrystallized with cold diethyl ether to give white crystals, m.p. 107-109.5° C. 1H n.m.r (D2)) δ6.60(4 H, m) CH═CH2;6.16 (6 H, m), CH═CH2; 5.79(2 H, m), CH═CH2;3.61 (6 H, m) N—CH2—CH2,3.52(6 H, m) N—CH2—CH2. 13C n.m.r (D2)) δ172.52, 172.39, 171.78, 171.70 (C═O); 132.70, 132.55, 132.14, 131.74 (CH═CH2), 130.52, 130.32, 129.93, 129.64 (CH═CH2), 50.35, 49.82, 49.35, 48.31, 47.33, 46.05 (NH—CH2—CH2). MS: mz: 363.2 (MH+, 100%), 291.2 (16), 238.1(6), 195.1(74); HRMS: found:363.20204; C18H26N4O4 requires: 362,4236Elemental analysis: found: C, 59.71; H, 7.22; N, 15.37; C18H26N4O4 requires C, 59.65; H, 7.23; N, 15.46. L.R. (KBr) (cm−1): 3283, 3423, 1672, 1642, 1552, 1278.

reactant | Triethylene tetramine | 0.02 moles, 2.93 g | NCCNCCNCCN | C6H18N4
reactant | acryloyl chloride | 0.08 moles, 7.24 g | C(C=C)(=O)Cl | C3H3ClO
reactant | KBr | [K+].[Br-]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Tetra acryloyl triethylene tetramine | C(C=C)(=O)C(N(C(C=C)=O)C(C=C)=O)(CNCCNCCN)C(C=C)=O | C18H26N4O4
